US08309562B2
1-{4-[(4-Methoxy-phenyl)-methyl-amino]-quinazolin-2-ylmethyl}-pyrrolidin-2-one
The title compound was prepared from (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (150 mg, 0.43 mmol), 2-pyrrolidinone (128 mg, 1.5 mmol) and n-butyllithium (2.5 M in THF, 1.2 mL, 3 mmol) in THF (2 mL) by a procedure similar to the preparation of 1-{4-[(4-methoxyphenyl)methylamino]quinazolin-2-ylmethyl}piperidin-2-one in Example 252 and was isolated as a yellow solid. 1H NMR (CDCl3) δ 7.75-7.73 (m, 1H), 7.55-7.51 (m, 1H), 7.13-7.10 (d, 2H), 6.99-6.97 (m, 2H), 6.93-6.90 (d, 2H), 4.72 (s, 2H), 3.84 (s, 3H), 3.61 (t, 2H), 3.54 (s, 3H), 2.53 (t, 2H), 2.15-2.10 (pentet, 2H); LC-MS (ESI+; 363 ([M+H]+)).

reactant | (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.43 mmol, 150 mg | ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H16ClN3O
reactant | 2-pyrrolidinone | 1.5 mmol, 128 mg | N1C(CCC1)=O | C4H7NO
reactant | n-butyllithium | 3 mmol, 2.5 M, 1.2 mL | C(CCC)[Li]
reactant | 1-{4-[(4-methoxyphenyl)methylamino]quinazolin-2-ylmethyl}piperidin-2-one | COC1=CC=C(C=C1)CNC1=NC(=NC2=CC=CC=C12)CN1C(CCCC1)=O | C22H24N4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{4-[(4-Methoxy-phenyl)-methyl-amino]-quinazolin-2-ylmethyl}-pyrrolidin-2-one | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)CN1C(CCC1)=O)C | C21H22N4O2
